US04197296
(Z)-11α-Amino-2β-ethoxy-5α-pregn-17(20)-en-3α-ol
A refluxing solution (under nitrogen) of (Z)-2β-ethoxy-3α-hydroxy-5α-pregn-17(20)-en-11-one 11-oxime (450 mg) in propan-1-ol (15 ml) was treated with pieces of Na (450 mg). When there was no trace of Na left the mixture was added to chilled water to give a fine precipitate which was collected by filtration.

reactant | (Z)-2β-ethoxy-3α-hydroxy-5α-pregn-17(20)-en-11-one 11-oxime | 450 mg | C(C)O[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC/C(=C/C)/[C@]4(CC([C@@H]3[C@]2(C1)C)=NO)C)O | C23H37NO3
reactant | water | O | H2O
solvent | propan-1-ol | 15 ml | C(CC)O | C3H8O
product | (Z)-11α-Amino-2β-ethoxy-5α-pregn-17(20)-en-3α-ol | N[C@H]1[C@@H]2[C@]3(C[C@@H]([C@H](C[C@@H]3CC[C@H]2[C@@H]2CC/C(=C/C)/[C@]2(C1)C)O)OCC)C | C23H39NO2
